US07943619B2
a) (E)- and/or (Z)-3-Fluoro-benzaldehyde oxime
To a suspension of 3-fluorobenzaldehyde (6.75 g, 54 mmol) and hydroxylamine hydrochloride (4.16 g, 60 mmol) in ethanol (4.3 mL) and water (13 mL) was added ice (25 g). Then a solution of sodium hydroxide (5.5 g, 138 mmol) in water (6.5 mL) was added dropwise within a 10 min period (temperature rises from −8° C. to +7° C.) whereupon most of the solid dissolves. After 30 min stirring at room temperature a white solid precipitated and the resulting mixture was then diluted with water and acidified with HCl (4 N). The white precipitate was then filtered off, washed with water and dried under high vacuum to afford the title compound (7.0 g, 93%) which was obtained as a white solid. MS m/e (EI): 139.1 [M].

reactant | 3-fluorobenzaldehyde | 54 mmol, 6.75 g | FC=1C=C(C=O)C=CC1 | C7H5FO
reactant | hydroxylamine hydrochloride | 60 mmol, 4.16 g | Cl.NO
reactant | sodium hydroxide | 138 mmol, 5.5 g | [OH-].[Na+]
solvent | ethanol | 4.3 mL | C(C)O | C2H6O
solvent | water | 13 mL | O | H2O
solvent | water | 6.5 mL | O | H2O
product | (Z)-3-Fluoro-benzaldehyde oxime | 7.0 g, 93% | FC=1C=C(\C=N/O)C=CC1 | C7H6FNO
